US07728009B1
Step 2. Preparation of 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole
To a solution of 2,4,5-tribromo-1-ethyl-1H-imidazole (13.19 g, 40 mmol) and 1-naphthylphenylboronic acid (6.88 g, 40 mmol, 1.0 eq.) in toluene (100 ml) is added aqueous potassium carbonate solution (2.0 N, 40 ml, 2.0 eq.), followed by the addition of Pd(PPh3)4 (1.154 g, 1 mmol, 0.025 eq.). The resulting mixture is degassed with nitrogen, and then stirred at 90° C. for 16 hr. After cooling to rt, the reaction mixture is diluted with EtOAc (100 ml), washed with water and brine, and dried over sodium sulfate. After the solvent is removed, the crude product is purified through flash chromatography to afford the title product LCMS 380 (M+1).

reactant | 2,4,5-tribromo-1-ethyl-1H-imidazole | 40 mmol, 13.19 g | BrC=1N(C(=C(N1)Br)Br)CC | C5H5Br3N2
reactant | 1-naphthylphenylboronic acid | 40 mmol, 6.88 g, 1.0 eq. | C1(=CC=CC2=CC=CC=C12)OB(O)C1=CC=CC=C1 | C16H13BO2
reactant | potassium carbonate | 2.0 N, 40 ml, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1 mmol, 1.154 g, 0.025 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole | BrC=1N=C(N(C1Br)CC)C1=CC=CC2=CC=CC=C12 | C15H12Br2N2
